US04988730
(b) 3-(3,4-Dimethoxyphenyl)-1-phenyl-2-azabutane
A mixture containing 18.1 g of 1-amino-1-(3,4-dimethoxyphenyl)-ethane (J. Chem. Soc. 1963, 4289), 10,6 g of benzaldehyde and 1 drop of pyridine in 100 ml of methanol is let stand at 20° C. for 2 days, then 3.8 g of sodium borohydride are added during 30 minutes and stirred for additional 3 hours. After evaporation of the solvent, the residue is diluted with water, extracted with chloroform, the organic phase is dried and evaporated to give 27.1 g of the crude title compound, which can directly be used in the process described in Example 6.

reactant | 1-amino-1-(3,4-dimethoxyphenyl)-ethane | 18.1 g | NC(C)C1=CC(=C(C=C1)OC)OC | C10H15NO2
reactant | benzaldehyde | 10,6 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 3.8 g | [BH4-].[Na+]
catalyst | pyridine | 1 drop | N1=CC=CC=C1 | C5H5N
solvent | methanol | 100 ml | CO | CH4O
product | 3-(3,4-Dimethoxyphenyl)-1-phenyl-2-azabutane | 27.1 g | COC=1C=C(C=CC1OC)C(NCC1=CC=CC=C1)C | C17H21NO2
